US08492582B2
A 4 mol/L aqueous solution of sodium hydroxide (9.8 mL) was added to a dioxane (45 mL) solution of the obtained methyl 2-(benzyloxy)-5-(piperidin-1-yl)benzoate (4.3 g), followed by stirring at room temperature for 1 hour and then at 50 to 55° C. for 2 hours. After cooling the reaction mixture to room temperature, the reaction mixture was adjusted to a pH of 6.3 with acetic acid, and the solvent was evaporated under reduced pressure. Water was added to the obtained residue, and the solid substance was collected by filtration to obtain 3.7 g of 2-(benzyloxy)-5-(piperidin-1-yl)benzoic acid as a white solid.

reactant | sodium hydroxide | 9.8 mL | [OH-].[Na+]
reactant | dioxane | 45 mL | O1CCOCC1 | C4H8O2
reactant | methyl 2-(benzyloxy)-5-(piperidin-1-yl)benzoate | 4.3 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C=C1)N1CCCCC1 | C20H23NO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(benzyloxy)-5-(piperidin-1-yl)benzoic acid | 3.7 g | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=C(C=C1)N1CCCCC1 | C19H21NO3
